US04006243
[4-(1-Imidazolylmethyl)-2-nitrophenyl]-(2,4-dichlorobenzyl)-ether
5.5 g. of 4-hydroxy-3-nitrobenzaldehyde is reacted with 6.7 g. of 2,4-dichlorobenzyl chloride analogously to Chem. Abstr. 71 (1969) 30232, thus obtaining 5.2 g. of 4-(2,4-dichlorobenzyloxy)-3-nitrobenzaldehyde, m.p. 172°-174°. Of this product, 0.9 g. is dissolved in methanol/dioxane and reduced with 500 mg. of sodium borohydride, yielding 580 mg. of 4-(2,4-dichlorobenzyloxy)-3-nitrobenzyl alcohol, m.p. 126°-127°. 450 mg. of this product is heated with 5 ml. of thionyl chloride for 5 minutes to 100°. After the residual thionyl chloride has been removed under vacuum, the remainder is vacuum-filtered with ethanol, thus producing 400 mg. of (4-chloromethyl-2-nitrophenyl)-(2,4-dichlorobenzyl)-ether, m.p. 147°-149°. 300 mg. of this ether is added to a solution of 68 mg. of imidazole in 3 ml. of dimethylformamide, which was agitated with the addition of 30 mg. of sodium hydride suspension (80%) for 1 hour at room temperature, and the mixture is stirred for another hour at room temperature. Then, the mixture is combined with 1N sulfuric acid and the thus-precipitated product is vacuum-filtered, dissolved in methanol/chloroform, and extracted with 1N sodium hydroxide solution. The chloroform phase is washed with water, dried, and evaporated. Recrystallization from cyclohexane/benzene yields 260 mg. of [4-(4-(1-imidazolylmethyl)-2-nitrophenyl]-(2,4-dichlorobenzyl)-ether, m.p. 120°-124°.

reactant | 4-(2,4-dichlorobenzyloxy)-3-nitrobenzyl alcohol | ClC1=C(COC2=C(C=C(CO)C=C2)[N+](=O)[O-])C=CC(=C1)Cl | C14H11Cl2NO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | (4-chloromethyl-2-nitrophenyl)-(2,4-dichlorobenzyl)-ether | ClCC1=CC(=C(C=C1)OCC1=C(C=C(C=C1)Cl)Cl)[N+](=O)[O-] | C14H10Cl3NO3
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | [H-].[Na+]
reactant | sulfuric acid | 1N | S(O)(O)(=O)=O | H2O4S
reactant | 4-(4-(1-imidazolylmethyl)-2-nitrophenyl]-(2,4-dichlorobenzyl)-ether | N1C(=NC=C1)CC1=CC(=C(C=C1)C1(CC(=C(COCC2=C(CC(C=C2)(C2=C(C=C(C=C2)CC=2NC=CN2)[N+](=O)[O-])Cl)Cl)C=C1)Cl)Cl)[N+](=O)[O-] | C34H28Cl4N6O5
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | [4-(1-Imidazolylmethyl)-2-nitrophenyl]-(2,4-dichlorobenzyl)-ether | N1C(=NC=C1)CC1=CC(=C(C=C1)OCC1=C(C=C(C=C1)Cl)Cl)[N+](=O)[O-] | C17H13Cl2N3O3
